US09227976B2
Step 2: 1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazin-4-ol
To a solution of 3-iodo-1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-pyrazolo[3,4-c]pyridazin-4-ol (120 mg, 0.26 mmol) in dioxane (1.7 mL) and DMSO (0.9 mL) was added pyrrolidine (233 μL, 2.8 mmol) and sodium t-butoxide (37 mg, 0.39 mmol) and nitrogen was bubbled in the resulting mixture for 30 min. Pd2 dba3 (24 mg, 0.026 mmol) and Xantphos (9 mg, 0.016 mmol) were then added, the tube flushed with nitrogen, sealed and heated to 100° C. for 5 h. Pyrrolidine (40 μL, 0.49 mmol), Pd2 dba3 (24 mg, 0.026 mmol) and Xantphos (9 mg, 0.016 mmol) were added and the mixture was heated to 100° C. for another 1 h. The mixture was left to cool to rt, then neutralised to pH 2-3 before loading on an SCX (10 g) cartridge. The cartridge was eluted with MeOH then CH2Cl2/MeOH (1:1) and finally the product was released with 10% methanolic ammonia (7 N) in CH2Cl2/MeOH (1:1). Evaporation of the solvent gave the title compound as a yellow glass (94 mg) which was reacted as such in the next step.

reactant | 3-iodo-1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-pyrazolo[3,4-c]pyridazin-4-ol | 0.26 mmol, 120 mg | IC1=NN(C=2N=NC(=C(C21)O)C2=CC=CC=C2)CCN2CCN(CC2)C | C18H21IN6O
reactant | pyrrolidine | 2.8 mmol, 233 μL | N1CCCC1 | C4H9N
reactant | sodium t-butoxide | 0.39 mmol, 37 mg | CC(C)([O-])C.[Na+]
reactant | Pyrrolidine | 0.49 mmol, 40 μL | N1CCCC1 | C4H9N
solvent | dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 0.9 mL | CS(=O)C | C2H6OS
catalyst | Pd2 dba3 | 0.026 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2 dba3 | 0.026 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.016 mmol, 9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Xantphos | 0.016 mmol, 9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazin-4-ol | 94 mg | CN1CCN(CC1)CCN1N=C(C2=C1N=NC(=C2O)C2=CC=CC=C2)N2CCCC2 | C22H29N7O
